US07560551B2
A resealable pressure vial was charged with N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine (100 mg, 0.180 mmol) and N1,N1,2,2-tetramethylpropane-1,3-diamine (0.12 ml, 0.73 mmol) and DMSO (1.2 ml, 0.15 M). The reaction vessel was sealed and the mixture was stirred at 70° C. for 16 hrs. The reaction was cooled to RT and diluted with 3 ml of DMSO. The solution was purified by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA). The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure N-(4-(3-(2-(3-(dimethylamino)-2,2-dimethylpropylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)4-phenylphthalazin-1-amine as a yellow solid. MS m/z=597 [M+H]+. Calc'd for C36H36N8O: 596.72.

reactant | N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine | 0.180 mmol, 100 mg | CS(=O)(=O)C1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C30H22N6O3S
reactant | N1,N1,2,2-tetramethylpropane-1,3-diamine | 0.73 mmol, 0.12 ml | CN(CC(CN)(C)C)C | C7H18N2
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | DMSO | 0.15 M, 1.2 ml | CS(=O)C | C2H6OS
product | N-(4-(3-(2-(3-(dimethylamino)-2,2-dimethylpropylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)4-phenylphthalazin-1-amine | CN(CC(CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1)(C)C)C | C36H36N8O
